US06951870B2
(a) 6,7-Dihydroxy-2-imino-2H-chromene-3-carboxylic acid ethyl ester
To a solution of 2,4,5-trihydroxybenzaldehyde (2.94 g) and ethyl cyanoacetate (1.62 g) in DMF (20 ml) were added 20 drops (Pasteur pipette) of piperidine and eight drops of acetic acid and the solution kept at 80° C. under nitrogen for two hours. The product was filtered and washed with DMF and ethyl ether. Yield: 2.00 g.

reactant | 2,4,5-trihydroxybenzaldehyde | 2.94 g | OC1=C(C=O)C=C(C(=C1)O)O | C7H6O4
reactant | ethyl cyanoacetate | 1.62 g | C(#N)CC(=O)OCC | C5H7NO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | piperidine | 20 drops | N1CCCCC1 | C5H11N
catalyst | acetic acid | eight drops | C(C)(=O)O | C2H4O2
product | 6,7-Dihydroxy-2-imino-2H-chromene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(OC2=CC(=C(C=C2C1)O)O)=N | C12H11NO5
